US04474692
In a solution of 20 g of 1,2,3,4-tetrahydro-2-naphthalenone in 200 ml of methanol, there is dissolved 23 g of glycine ethyl ester hydrochloride, and 9.0 g of sodium cyanoborohydride is added portionwise with ice cooling and stirring. After stirring at room temperature for 2 hours, the reaction mixture is poured into 500 ml of ice water, and the whole mixture is made alkaline with sodium hydrogen carbonate and extracted with 500 ml of ethyl acetate. The extract is washed with water and dried, the ethyl acetate is distilled off under reduced pressure, 10 ml of 20% ethanolic hydrochloric acid and 200 ml of ethyl ether are added to the residue, and the mixture is allowed to stand at room temperature. The crystalline precipitate is collected by filtration and dried to give 25 g of N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine ethyl ester hydrochloride as colorless needles melting at 198°-200° C.

reactant | glycine ethyl ester hydrochloride | 23 g | Cl.C(C)OC(CN)=O
reactant | sodium cyanoborohydride | 9.0 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 1,2,3,4-tetrahydro-2-naphthalenone | 20 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
solvent | methanol | 200 ml | CO | CH4O
product | N-(1,2,3,4-tetrahydronaphthalen-2-yl)glycine ethyl ester hydrochloride | 25 g | Cl.C(C)OC(CNC1CC2=CC=CC=C2CC1)=O | InChI=1S/C14H19NO2.ClH/c1-2-17-14(16)10-15-13-8-7-11-5-3-4-6-12(11)9-13;/h3-6,13,15H,2,7-10H2,1H3;1H
